US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(4′-(hydroxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide (610 mg, 1.52 mmol), methanesulfonyl chloride (0.13 mL, 1.7 mmol), and N,N-diisopropylethylamine (0.79 mL, 4.6 mmol) were dissolved in dichloromethane (10 mL) at 25° C. The reaction was stirred for 10 minutes before a 2.0 M solution of MeNH2 in THF (15 mL, 30 mmol) was added. The mixture was stirred for 30 minutes at ambient temperature before it was extracted with 1N HCl (20 mL×2) and saturated NaHCO3 (20 mL×2). The organic extracts were dried over Na2SO4 and evaporated. The crude product was purified by chromatography on silica gel (eluting with 0-20% methanol in dichloromethane) to afford 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-4′-((methylamino)methyl)biphenyl-3-yl)cyclopropanecarboxamide (379 mg, 60%). ESI-MS m/z calc. 414.5, found 415.5 (M+1)+; retention time 2.44 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(4′-(hydroxymethyl)-6-methylbiphenyl-3-yl)cyclopropanecarboxamide | 1.52 mmol, 610 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)CO | C25H23NO4
reactant | methanesulfonyl chloride | 1.7 mmol, 0.13 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 4.6 mmol, 0.79 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | MeNH2 | CN | CH5N
reactant | THF | 30 mmol, 15 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-4′-((methylamino)methyl)biphenyl-3-yl)cyclopropanecarboxamide | 379 mg, 60% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)CNC | C26H26N2O3
